US08604022B2
Saturated aqueous sodium hydrogen carbonate solution (25.00 ml) was added to methyl 2-chloropyrimidine-5-carboxylate (0.863 g, 5 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.855 g, 6.00 mmol), palladium(II) acetate (0.056 g, 0.25 mmol) and triphenylphosphine (0.262 g, 1.00 mmol) in 1,2-dimethoxyethane (25.00 ml) at 25° C. under nitrogen. The resulting mixture was stirred at 80° C. for 4 h. The cooled reaction mixture was taken up in water (50 mL), washed with EtOAc (50 mL) and then the aqueous layer was acidified to pH1 with 2N HCl. The aqueous layer was extracted with EtOAc (3×25 mL) and the combined organics washed with brine, dried over MgSO4 and concentrated under reduced pressure to afford 2-(1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylic acid (1.280 g, 84%) as a yellow solid. This was used directly with no further purification.

reactant | sodium hydrogen carbonate | 25.00 ml | C(O)([O-])=O.[Na+]
reactant | methyl 2-chloropyrimidine-5-carboxylate | 5 mmol, 0.863 g | ClC1=NC=C(C=N1)C(=O)OC | C6H5ClN2O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 6.00 mmol, 1.855 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | triphenylphosphine | 1.00 mmol, 0.262 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dimethoxyethane | 25.00 ml | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
catalyst | palladium(II) acetate | 0.25 mmol, 0.056 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylic acid | 1.280 g, 84% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=C(C=N1)C(=O)O | C15H19N3O4
